US04005084
A solution of 23 g of 4-benzyl-2-[2-(2-thenyl)phenoxymethyl]-morpholin-5-one in 200 ml of benzene was added dropwise to a suspension of 7 g of lithium aluminum hydride in 200 ml of ether with stirring and cooling. The resulting mixture was heated under reflux with stirring for 5 hours. To the mixture was added 10 ml of ethyl acetate, and the whole mixture was stirred for 30 minutes. To the mixture were added water under cooling and then 300 ml of a saturated aqueous Rochelle salt solution, and the resulting mixture was stirred for 30 minutes. The organic layer was collected and dried over anhydrous magnesium sulfate. The solvent was distilled off to give 20 g of 4-benzyl-2-[2-(2-thenyl)phenoxymethyl]morpholine as an oil. The oil was dissolved in ether, and a mixture of 4.8 g of oxalic acid in ether and ethanol was added to the solution to give 23 g of the corresponding oxalate salt as colorless crystals, melting at 179°-181.5° C. The thus-obtained oxalate was converted into the free base, which was used as the starting compound of Example 1.

reactant | 4-benzyl-2-[2-(2-thenyl)phenoxymethyl]-morpholin-5-one | 23 g | C(C1=CC=CC=C1)N1CC(OCC1=O)COC1=C(C=CC=C1)CC1=CC=CS1 | C23H23NO3S
reactant | lithium aluminum hydride | 7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | Rochelle salt | 300 ml | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | 4-benzyl-2-[2-(2-thenyl)phenoxymethyl]morpholine | 20 g | C(C1=CC=CC=C1)N1CC(OCC1)COC1=C(C=CC=C1)CC1=CC=CS1 | C23H25NO2S
